// Netlist generated by ASDL for backend `sim.spectre`
simulator lang=spectre
global 0

MP_LOAD_P (D D VDD VDD) pmos_3p3 L=0.28u W=1u NF=1 m=3
MP_LOAD_N (OUT D VDD VDD) pmos_3p3 L=0.28u W=1u NF=1 m=3
MN_IN_P (D IN_P TAIL VSS) nmos_3p3 L=0.28u W=1u NF=1 m=1
MN_IN_N (OUT IN_N TAIL VSS) nmos_3p3 L=0.28u W=1u NF=1 m=1
MN_TAIL (TAIL VBN VSS VSS) nmos_3p3 L=0.28u W=1u NF=1 m=2